US05707544
A solution of 0.35 g of 4-(4-nitrophenylazo)benzoic acid, 0.2 g of (4-hydroxyphenoxy)ethanol and 0.04 g of 4-dimethylaminopyridine is reacted with 0.4 g of N,N'-dicyclohexyldicarbodiimide and 50 ml of dichloromethane in an analogous manner to Example 1 to give 0.4 g of (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethanol.

reactant | 4-(4-nitrophenylazo)benzoic acid | 0.35 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)O)C=C1 | C13H9N3O4
reactant | (4-hydroxyphenoxy)ethanol | 0.2 g | OC1=CC=C(OC(C)O)C=C1 | C8H10O3
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethanol | 0.4 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)OC2=CC=C(OC(C)O)C=C2)C=C1 | C21H17N3O6
